US07572809B2
Similar procedure as described in example 10 was used, starting from phenol and (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine to give (5-methyl-1H-pyrazol-3-yl)-(1-phenoxy-isoquinolin-3-yl)-amine. LC-MS: m/e 317 (MH+). 1H NMR(DMSO): δ 2.12(s, 3H), δ 5.56(s, 1H), δ 7.22(s, 1H), δ 7.32(m, 5H), δ 7.51(m, 2H), δ 7.65(m, 2H), δ 8.15(d, 1H), δ 9.05(s, 1H).

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC(=C1)C | C13H11ClN4
product | (5-methyl-1H-pyrazol-3-yl)-(1-phenoxy-isoquinolin-3-yl)-amine | CC1=CC(=NN1)NC=1N=C(C2=CC=CC=C2C1)OC1=CC=CC=C1 | C19H16N4O
